US07435823B2
Preparation of 3,3-dimethyl-1-(2-nitro-4-(trifluoromethyl)phenyl)azetidin-2-one
To a mixture of 3-chloro-2,2-dimethyl-N-(2-nitro-4-(trifluoromethyl)phenyl)propanamide (3.24 g, 10.0 mmol, 1.0 equiv) in acetone (100 mL) was added K2CO3 (3.5 g, 25.0 mmol, 2.5 equiv). was heated to 50° C. for 48 h. After filtering, the solvent was removed in vacuo and the resulting residue purified by silica gel chromatography (1:10 hexanes:EtOAc to 1:5 hexanes:EtOAc) to afford lactam 3. MS (MH+) 289.1; Calculated 289.1 for C12H12F3N2O3.

reactant | 3-chloro-2,2-dimethyl-N-(2-nitro-4-(trifluoromethyl)phenyl)propanamide | 10.0 mmol, 3.24 g, 1.0 equiv | ClCC(C(=O)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])(C)C | C12H12ClF3N2O3
reactant | K2CO3 | 25.0 mmol, 3.5 g, 2.5 equiv | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 3,3-dimethyl-1-(2-nitro-4-(trifluoromethyl)phenyl)azetidin-2-one | CC1(C(N(C1)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O)C | C12H11F3N2O3
